US07704989B2
A suspension of 150 mg of N-phenyl-6-vinylimidazo[1,2-a]pyridine-2-carboxamide, 232 μl of osmium tetroxide and 167.5 mg of sodium periodate in a mixture of 6 ml of THF, 3 ml of t-butanol and 3 ml of water is stirred at 20° C. for 20 hours and then for a further 48 hours while adding, on 4 occasions, an additional 100 μl of osmium tetroxide and 80 mg of sodium periodate. The reaction mixture is poured into 50 ml of water and extraction is carried out twice with 50 ml of ethyl acetate. The combined organic phases are washed with a saturated aqueous sodium chloride solution, separated by settling, dried and concentrated to dryness under reduced pressure. The residue is chromatographed on silica, elution being carried out with a mixture of cyclohexane and ethyl acetate (gradient from 0 to 50%), to give 100 mg of 6-formyl-N-phenylimidazo[1,2-a]pyridine-2-carboxamide in the form of a white solid.

reactant | N-phenyl-6-vinylimidazo[1,2-a]pyridine-2-carboxamide | 150 mg | C1(=CC=CC=C1)NC(=O)C=1N=C2N(C=C(C=C2)C=C)C1 | C16H13N3O
reactant | sodium periodate | 167.5 mg | I(=O)(=O)(=O)[O-].[Na+]
reactant | t-butanol | 3 ml | C(C)(C)(C)O | C4H10O
reactant | water | 3 ml | O | H2O
reactant | sodium periodate | 80 mg | I(=O)(=O)(=O)[O-].[Na+]
reactant | water | 50 ml | O | H2O
solvent | THF | 6 ml | C1CCOC1 | C4H8O
catalyst | osmium tetroxide | 232 μl | [Os](=O)(=O)(=O)=O
catalyst | osmium tetroxide | 100 μl | [Os](=O)(=O)(=O)=O
solvent | ethyl acetate | 50 ml | C(C)(=O)OCC | C4H8O2
product | 6-formyl-N-phenylimidazo[1,2-a]pyridine-2-carboxamide | 100 mg | C(=O)C=1C=CC=2N(C1)C=C(N2)C(=O)NC2=CC=CC=C2 | C15H11N3O2
